US07728155B2
Treatment of (±)-(4-chloro-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl 4-methylbenzenesulfonate (4.0 g, 10.6 mmol) with sodium azide (2.75 g, 42.2 mmol) generally according to the procedure described for Intermediate 24 gave (±)-(4-chloro-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl azide. Treatment of the azide with sulfided platinum on carbon (5 wt. %, 0.63 g) followed by hydrogen chloride (3 mL, 4 M in isopropanol) generally according to the procedure described for Example 2 provided 2.1 g (76%) of (±)-1-(4-chloro-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methanamine as a white solid, hydrochloride salt. mp 251-254° C.; Anal. calcd. for C12H14ClNOHCl: C, 55.40; H, 5.81; N, 5.38. Found: C, 55.10; H, 5.68; N, 5.29.

reactant | (±)-(4-chloro-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl 4-methylbenzenesulfonate | 10.6 mmol, 4.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1CC2=C(O1)C=1CCCC1C=C2Cl | C19H19ClO4S
reactant | sodium azide | 42.2 mmol, 2.75 g | [N-]=[N+]=[N-].[Na+]
product | (±)-(4-chloro-3,6,7,8-tetrahydro-2H-indeno[4,5-b]furan-2-yl)methyl azide | ClC1=CC=2CCCC2C=2OC(CC21)CN=[N+]=[N-] | C12H12ClN3O
